### PR TITLE
feat(Tensors/Contraction): slot-addressed cross contraction and the general-rank raise/lower round trip

### PR DESCRIPTION
**Pull request by pariandrea**
# Slot-addressed cross contraction, and `toDualAtIndex` at every rank

Contracting slot `i` of one tensor against slot `j` of another is `prodT` then `contrT`. Written
that way, every call site has to locate the two post-product slots, discharge the distinctness and
`τ`-duality goals, and repair a cast-polluted output colour before the next step. This PR names that
operation, fixes its output colour, and proves its algebra once.

Two conventions are provided, and the names say which is which.

- **`crossToEnd i j`** deposits the survivor **at the end**: survivors of `A`, then survivors of `B`,
  gaps closed (`Fin.append (cA ∘ i.succAbove) (cB ∘ j.succAbove)`). Appending on the right is what
  makes the chain regrouping statable uniformly in rank and slot.
- **`crossToSlot i j M`** keeps the replacement index **at slot `i`** (`Function.update c i d`,
  nothing else moves) — `T^{μ}{}_{νρ} ↦ T_{μνρ}`. This is the front door: contract a distinguished
  rank-2 tensor (a metric, the unit tensor) at a named slot of an arbitrary tensor.

`crossToSlot_eq_crossToEnd` is the single place the two meet, the inverse of the cycle `[i, last]`.

The payoff is `crossToSlot_raise_lower_round_trip`: for **any** matched pair of rank-2 tensors
collapsing to the unit tensor, raising then lowering a named index is the identity, **at any rank and
any slot**, with all four colours threaded propositionally so a caller whose metric sits at a literal
colour supplies it with no transporting `permT`. On master this result exists only at rank 1, slot 0
(`toDualMap_fromDualMap`), by 30 lines of hand transports.

When the pair collapses in *both* orders the two contractions are mutually inverse, and
`crossToSlotEquiv` bundles them as a `≃ₗ` between the two colour assignments. The species-metric
case is the instance: `toDualAtIndex` is reimplemented on `crossToSlot`, its double-dual round trip
is proved at every rank, and it is upgraded from a `→ₗ` to a `≃ₗ`.

## API changes to existing declarations

Reviewers should decide on these first.

The trade: eleven declarations go (ten in `Dual.lean`, one in `Reindexing.lean`), and what replaces
them is a single round trip holding at every rank and every named slot, plus the general `crossToSlot`
it is an instance of. The deleted `toDualMap_fromDualMap` also carried master's
`set_option backward.isDefEq.respectTransparency false` on `Tensors/Dual.lean:62`; the general-rank
proof needs no transparency override, so the branch removes that one and adds none.

| Declaration | File | Change |
|---|---|---|
| `toDualAtIndex` | `Tensors/Dual.lean` | was a `→ₗ` at every rank with no lemmas; now a `≃ₗ`, defined via `crossToSlot`. The map itself is split off as `toDualMapAtIndex` (what `Elab.lean`'s `jiggle` now emits). |
| `toDualMap`, `fromDualMap`, `toDual` (+ `toDualMap_apply`, `fromDualMap_apply`, `toDualMap_fromDualMap`, `fromDualMap_toDualMap`, `fromDualMap_eq_permT_toDualMap`, `toDualMap_eq_permT_fromDualMap`, `toDual_equivariant`) | `Tensors/Dual.lean` | **removed, superseded.** They are the rank-1, slot-0 case of `toDualMapAtIndex` / `toDualAtIndex`, with no in-tree consumers. Note the instance is not literally the old statement: at `n = 1, i = 0` the colour list is `Function.update ![c] 0 (S.τ c)` rather than `![S.τ c]`. Happy to restore them as thin wrappers if you would rather keep the rank-1 names. |
| `IsReindexing.contr_two_rotate` | `Tensors/Reindexing.lean` | **removed.** It existed only to state the old `toDualAtIndex`'s output permutation; `IsReindexing.crossToSlot_cycle` replaces it. |

### `Tensors/Contraction/CrossToEnd.lean` (new)

- `crossToEnd` — the slot-addressed cross contraction, as a curried bilinear map. Additivity,
  scalar multiplication and sums in either argument come from the `LinearMap` structure.
- `crossToEnd_two` — at rank two on each factor, a plain `contrT` of the product on slots `1, 2`.
  Discharges the concrete slot arithmetic once so `contrT`-level identities lift by one rewrite.
- `crossToEnd_equivariant` — commutes with the `G`-action.
- `crossToEnd_assoc_rankTwo` — rebracket the chain `A —(iA·0)— B —(last·0)— C` for rank-two `B`, `C`,
  up to `permT id`. Not full associativity: only `A`'s attachment slot is free.
- `crossToEnd_permT_left` / `crossToEnd_permT_right` — move a relabelling of either factor through
  the contraction, the contracted slot moving with it. The survivor relabelling `σ'` is a caller
  argument constrained by the square `(σ i).succAbove ∘ σ' = σ ∘ i.succAbove`.

### `Tensors/Contraction/CrossToSlot.lean` (new)

- `IsReindexing.crossToSlot_cycle` — the output colour list, after the survivor is rotated back.
- `crossToSlot` — the result-to-slot contraction against a rank-2 tensor; raising and lowering a
  named index.
- `crossToSlot_eq_crossToEnd` — the bridge between the two conventions.
- `crossToSlotInv` — the returning contraction, with the round trip's two-`Function.update` colour
  cast absorbed so a round trip is cast-free at both ends.
- `crossToSlot_permT_right_id` — an identity reindexing of the rank-2 tensor passes through.
- `crossToSlot_equivariant` — commutes with the `G`-action.

### `Tensors/Contraction/UnitTensorContraction.lean` (new, `[RCLike k]`)

- `crossToEnd_unitTensor` — the unit tensor is an identity for `crossToEnd` at any named slot.
  (Private steps: `crossToEnd_prodT_unitTensor`, `crossToEnd_unitTensor_slot`.)
- `IsReindexing.unitTensor_pair` — the colour list a matched rank-2 pair contracts to.
- `crossToEnd_round_trip_of_unit_slot` — the round trip in result-to-end form.
- `crossToSlot_raise_lower_round_trip` — the round trip in result-to-slot form, every colour
  propositional. (Private step: `crossToSlot_round_trip_of_unit`.)
- `crossToSlotInv_crossToSlot`, `crossToSlot_crossToSlotInv` — both directions, for a pair
  collapsing in both orders. The second gets its injectivity from the reversed collapse.
- `crossToSlotEquiv` — raising and lowering a named index against a mutually inverse pair, as a
  `≃ₗ` between `c` and `Function.update c i d`.

### `Tensors/Dual.lean`

- `toDualMapAtIndex` — dualise a named index, as `crossToSlot` against `metricTensor (τ (c i))`.
- `crossToEnd_dual_metricTensor_metricTensor`,
  `crossToEnd_metricTensor_metricTensor_eq_dual_unit` — the metric collapses against the metric at
  the dual colour, in both orders: the two hypotheses `crossToSlotEquiv` needs.
- `toDualMapAtIndex_toDualMapAtIndex` — the double-dual round trip, at every rank. Its output
  reindexing is `IsReindexing.update_update_of_eq` at `τ (τ (c i)) = c i`.
- `fromDualMapAtIndex` — the inverse, as `crossToSlotInv` against `metricTensor (c i)`.
- `fromDualMapAtIndex_toDualMapAtIndex`, `toDualMapAtIndex_fromDualMapAtIndex` — both directions.
- `toDualMapAtIndex_equivariant` — `G`-equivariance.
- `toDualAtIndex` (+ `_apply`, `_symm_apply`) — the resulting `≃ₗ`. Not a new name: this redefines
  the existing declaration, see the table above.

### `Tensors/Reindexing.lean` — `Fin` index maps (new `namespace Fin` section)

- `append_swap_val` — the `.val` of the block-swap map, in closed form.
- `append_castAdd_natAdd_eq_id`, `append_castAdd_cast`, `append_natAdd_cast` — reassembling the two
  blocks of a `Fin` is the identity, or the length cast if one block was cast first.
- `append_succAbove_const_eq_cycleIcc` — moving slot `i` to the end *is* the cycle `[i, last]`.
- `cycleIcc_last_symm_apply_succAbove` — the inverse cycle on a reinserted survivor.
- `exists_succAbove_comm` — an injection of `Fin (n+1)` restricts to the survivors of a slot.
- `cast_castAdd_eq_mk`, `cast_natAdd_eq_mk` — pin a `Fin.cast`/block composite to a literal
  `⟨v, _⟩`.

### `Tensors/Reindexing.lean` — `IsReindexing`

- `succAbove_of_succAbove_eq` — the caller-supplied survivor relabelling is itself a reindexing; the
  square `(σ i).succAbove ∘ σ' = σ ∘ i.succAbove` forces its injectivity, so no bijectivity
  hypothesis is needed. Unlike the existing `IsReindexing.succAbove`, which builds the relabelling
  from `σ` as a `dite` composite, the map here is the caller's, which is what lets it stand in the
  statement of a lemma the caller instantiates.
- `moveLast` — split a colour list at an arbitrary slot rather than at the last one.
- `update_update_of_eq` — updating slot `i` to `d` and back to `c i` returns `c`: the colour cast a
  round trip at slot `i` generates.

### Other existing files

- `Tensors/Contraction/SuccSuccAbove.lean`: `Fin.reinsert_castAdd`, `Fin.reinsert_natAdd` — reinsert
  a survivor when the two removed slots straddle the two blocks of a product.
- `Tensors/Contraction/Pure.lean`: `Pure.permP_dropPair_dropPair_congr`,
  `Pure.permP_dropPair_permP_congr` — two `permP`/`dropPair` towers over a common pure tensor agree
  once their composite slot maps agree pointwise. `Pure.contrPCoeff_congr` — `contrPCoeff` is
  insensitive to its proof arguments (public, next to `contrPCoeff`).
- `Tensors/Contraction/Products.lean`: `prodT_contrT_fst` — the mirror of `prodT_contrT_snd`.
- `Tensors/Basic.lean`: `permT_injective` — from the existing `permT_eq_zero_iff`.
- `Tensors/Elab.lean`: `jiggle` emits `toDualMapAtIndex`; two `#guard_msgs` updated accordingly.
  Imports narrowed to `Dual` + `Tensorial`.

## Reviewer map

1. **`Tensors/Dual.lean`** — the API change and the removals above. Everything else exists to make
   this file possible; if the deletions are unwelcome, say so here first.
2. **`Tensors/Reindexing.lean`**, **`Contraction/SuccSuccAbove.lean`** — the index-map lemmas. Pure
   `Fin` arithmetic, no tensor content.
3. **`Contraction/Pure.lean`**, **`Products.lean`**, **`Basic.lean`** — the pure-level congruences
   the long proofs key on.
4. **`Contraction/CrossToEnd.lean`** — the definition and its algebra. `crossToEnd_assoc_rankTwo` is
   the one long proof (66 lines); see the note below.
5. **`Contraction/CrossToSlot.lean`** — small, the convention bridge.
6. **`Contraction/UnitTensorContraction.lean`** — the round trips and the equivalence.
7. **`Tensors/Elab.lean`** — mechanical rename.

## Known rough edges

- `crossToEnd_assoc_rankTwo` has a 66-line proof body, over the 50-LOC guideline. The index
  arithmetic is factored out into the `Fin` lemmas above and the closing case analysis is
  `grind (splits := 20)`, the idiom `SuccSuccAbove.lean` already uses. What remains is
  proof-specific normalisation: the `contrT_permT` push sequence, the `funPredPredAbove`
  cancellation, and the nine `Fin.cast`→literal pins `succSuccAbove_val` needs to fire. I have not
  found a further split that leaves an independently meaningful lemma behind; suggestions welcome.
- Seven `erw` steps remain, six in `UnitTensorContraction.lean` and one in `Dual.lean`, each
  commented with the defeq the `rw` keying fails on.
- No `set_option` of any kind in the three files this PR adds. On the branch as a whole the net
  change is one `backward.isDefEq.respectTransparency false` removed (it sat on the deleted
  `toDualMap_fromDualMap`) and none added; no `maxHeartbeats` bump anywhere.

### CODE REVIEW

File: Physlib/Relativity/Tensors/UnitTensor.lean [hunk 1]
```diff
@@ -6,6 +6,8 @@ Authors: Joseph Tooby-Smith
 module
 
 public import Physlib.Relativity.Tensors.Constructors
+public import Physlib.Relativity.Tensors.Contraction.Bond
```
Comment (nateabr) [inline Physlib/Relativity/Tensors/UnitTensor.lean]: I'm a bit concerned about this import being here, is it a good design choice to import high level algebra into a a basic module like this? I think down the line this might cause some issues with compilation as this file is imported in many other files. 

Furthermore I do believe the lemmas you have placed in this file ideally should've been in bond.lean.

File: Physlib/Relativity/Tensors/Contraction/Bond.lean [hunk 2]
```diff
@@ -0,0 +1,846 @@
...
+/-- The right-relabel map emitted by `prodT_permT_right` with a `Fin.cast` relabelling is
+  `.val`-preserving. -/
+private lemma append_castAdd_natAdd_cast_val (na nb n2 : ℕ) (heq : na = nb)
+    (x : Fin (n2 + na)) :
+    (Fin.append (Fin.castAdd nb) (Fin.natAdd n2 ∘ Fin.cast heq) x).val = x.val := by
+  refine Fin.addCases (fun i => ?_) (fun i => ?_) x
+  · simp [Fin.append_left]
+  · simp [Fin.append_right]
+
+end ReindexMapVal
```
Comment (nateabr) [inline Physlib/Relativity/Tensors/Contraction/Bond.lean]: Do the lemmas above need to be private? They seem quite helpful maybe you should move them to reindexing.lean so they can be used later.

File: Physlib/Relativity/Tensors/Contraction/Bond.lean [hunk 3]
```diff
@@ -0,0 +1,846 @@
...
+    (Fin.append (Fin.castAdd n2) (Fin.natAdd n ∘ σ) x).val =
+      if h : x.val < n then x.val else n + (σ ⟨x.val - n, by omega⟩).val := by
+  refine Fin.addCases (fun i => ?_) (fun i => ?_) x
+  · simp [Fin.append_left]
+  · simp only [Fin.append_right, Function.comp_apply, Fin.val_natAdd]
+    rw [dif_neg (by omega)]
+    congr 3
+    apply Fin.ext
+    simp
+
```
Comment (nateabr) [inline Physlib/Relativity/Tensors/Contraction/Bond.lean]: this could also be made public and moved to reindexing.lean?

File: Physlib/Relativity/Tensors/Contraction/Bond.lean [hunk 4]
```diff
@@ -0,0 +1,846 @@
...
+          (nV + (1 + nM) ≤ aL ∧ cL = aL - (nV + (1 + nM))) := by
+        split_ifs at hcL <;> omega
+      have hd : (cL < 1 + nN + 1 + nV ∧ dL = cL) ∨
+          (1 + nN + 1 + nV ≤ cL ∧ dL = cL + 2) := by
+        split_ifs at hdL <;> omega
+      clear hL hR hcL hdL
+      split_ifs <;> omega
+  · intro r t ht; simp only [map_smul, ht]
+  · intro t1 t2 h1 h2; simp only [map_add, h1, h2]
+
```
Comment (nateabr) [inline Physlib/Relativity/Tensors/Contraction/Bond.lean]: For the proofs above I think its worth heavily refactoring them(especially since you needed to increase the heartbeats). Particularly the generalize blocks. 

Maybe try isolating the index logic into standalone lemmas (consider adding them to reindexing.lean).

File: Physlib/Relativity/Tensors/UnitTensor.lean [hunk 5]
```diff
@@ -114,4 +116,105 @@ lemma unitTensor_invariant {c : C} (g : G) :
...
+                    = Fin.natAdd nV (0 : Fin 3) from Fin.ext (by simp),
+                show (⟨nV + 1, by omega⟩ : Fin (nV + 1 + 1 + 1))
+                    = Fin.natAdd nV (1 : Fin 3) from Fin.ext (by simp)]
+            rw [Fin.append_right, Fin.append_right]; exact hij.2)
+        (prodT E (prodT B (unitTensor cB)))) =
+      (permT id (IsReindexing.on_id_symm (IsReindexing.append_succSuccAbove_natAdd (0:Fin 3) 1)))
+        (prodT E (contrT 1 0 1 hij (prodT B (unitTensor cB)))) :=
+    contrT_prodT_snd (0 : Fin 3) 1 hij (prodT B (unitTensor cB)) E
+  rw [contrT_single_unitTensor] at key
+  conv_lhs => enter [2, 2]; rw (transparency := .instances) [key]
```
Comment (nateabr) [inline Physlib/Relativity/Tensors/UnitTensor.lean]: Overriding the transperency like this can be very brittle especially during mathlib bumps. 

Could we try replacing the raw `rw` with a congruence-based approach instead? Using something like `refine` or explicit congruence lemmas (which are available in `reindexing.lean` I think) usually unifies these dependent types naturally without needing to override transparency or target specific coordinates.

**Review by nateabr — CHANGES_REQUESTED** [review]
Hi I had a look through your work and it looks great! I just had a few comments that might help. 

I think in general it might be worth considering that these are foundational files and will probably be used as we build up more physics in relativity so compilation times would be a good thing to think about as we scale :)

**Comment by nateabr** [comment]
also upon reading my comments I believe have come across a little rude, I apologize for this :(

awaiting-author

File: Physlib/Relativity/Tensors/Contraction/Bond.lean [hunk 6]
```diff
@@ -0,0 +1,846 @@
...
+`instances` transparency, so `permT_permT`/`permT_congr` wall in `whnf`.
+`respectTransparency false` lets `isDefEq` unfold through them: it tunes defeq search, not
+provability; axiom-clean. -/
+set_option backward.isDefEq.respectTransparency false in
+/-- The cross-factor contraction ("tensor inner product"): contract the right bond (last index)
+  of `t1` against the left bond (first index) of `t2`. The surviving indices are those of `t1`
+  except its right bond (`cA ∘ Fin.castSucc`) followed by those of `t2` except its left bond
+  (`cB ∘ Fin.succ`); the result is again bond-distinguished `Fin (1 + (nA + nB) + 1)`, so
+  cross-contractions chain without recasts. -/
+noncomputable def contrProdT {nA nB : ℕ} {cA : Fin (1 + nA + 1) → C} {cB : Fin (1 + nB + 1) → C}
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/Bond.lean]: Would this work with just `(nA +1)` and `(nB + 1)`, I don't see why you need the additional `1+`.

**Comment by pariandrea** [comment]
> also upon reading my comments I believe have come across a little rude, I apologize for this :(
> 
> awaiting-author

Not rude at all! I am already working on them. Thank you very much for such a quick feedback!

**Comment by jstoobysmith** [comment]
To ask a more general question: What is does this give you which normal tensor contraction doesn't. For example ` Aⁱⱼ Bʲₖ` can already be concisely written using index notation as {A | i j ⊗ B | j k}ᵀ. The problem with this bond things is that they don't correspond to anything in index notation, so everytime one uses them it would have to be written out explicitly. I wonder if it is better to just improve the API around the existing definitions rather than introducing new ones here.

**Comment by nateabr** [comment]
@jstoobysmith even i was thinking about this and you are right that this doesn't have an index notation anologue, but maybe its similar to operator algebra?

But moreover practically, the use case that jumped out to me is if we need to chain many contractions together of tensors of different rank, leans system might fight against us and we probably wont be able to use `rw`and proof's might explode in length as the tensor rank's increase. 

However, I'm not a 100% sure, maybe there's some lean metaprogramming that can help us here?

**Comment by pariandrea** [comment]
@jstoobysmith You're right that for a single contraction the index notation already wins: Aⁱⱼ Bʲₖ is just {A | i j ⊗ B | j k}ᵀ.
@nateabr As you said, I was trying to address the chain of tensors problem.
Each contraction tears two indices out and the survivors keep their old positions, so you're left with gaps in the numbering. One contraction is fine, but the next one inherits those gaps, and every further link adds more, so you paste a Fin.cast correction at each step, the corrections stack instead of cancelling, and eventually rw can't fire because it has to see through the whole pile. 

The bond fixes a standard slot layout for every tensor: the two indices used for contracting always sit at fixed positions, first slot and last slot, with everything else in the middle. The contraction operation is defined so that its output is put back into this same standard layout. So the result of one contraction is already in exactly the form the next contraction expects, and no correction is needed between steps. The output of a contraction is again a valid input.

That said, I fully agree it's not ideal that this has no index-notation analogue.  I'm currently exploring whether the current physlib machinery can be extended to solve this chaining problem.

**Comment by jstoobysmith** [comment]
Actually, I think it does have an index notation analog! It's just something akin to mulVec e.g. we could write 
```
 {A *ᵥ B | i k}ᵀ =  {A | i j ⊗ B | j k}ᵀ
 ```
 
 etc.  Where does the name `bond` come from here?

**Comment by pariandrea** [comment]
The name comes from tensor networks (https://tensornetwork.org/mps/).

I adopted it somewhat loosely, as I am not familiar with tensor network theory. 

If we consider tensors that are represented by matrices A | i j and B | j k, contracting the last index of A and the first of B is just the row by column product.

File: Physlib/Relativity/Tensors/Contraction/Bond.lean [hunk 7]
```diff
@@ -0,0 +1,846 @@
...
+              Fin.val_castSucc]; split_ifs <;> omega]
+        simp [Fin.append_left]
+      | Sum.inr i =>
+        rw [finSumFinEquiv_apply_right,
+          show Fin.cast (by omega) (Fin.succSuccAbove ⟨1 + nA, by omega⟩ ⟨1 + nA + 1, by omega⟩
+              (Fin.natAdd (1 + nA) i)) = Fin.natAdd (1 + nA + 1) (Fin.succ i) from by
+            have := i.isLt
+            simp only [Fin.ext_iff, Fin.val_cast, Fin.succSuccAbove_val, Fin.val_natAdd,
+              Fin.val_succ]; split_ifs <;> omega]
+        simp [Fin.append_right])
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/Bond.lean]: Maybe worth extracting and putting into Reindexing

File: Physlib/Relativity/Tensors/Contraction/Bond.lean (hunk 6 above)
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/Contraction/Bond.lean]: Is it worth naming this `bondT` (or just `bond` then?)

File: Physlib/Relativity/Tensors/Contraction/Bond.lean (hunk 7 above)
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/Contraction/Bond.lean]: Likewise with the other large proofs in permT's.

File: Physlib/Relativity/Tensors/Contraction/Bond.lean [hunk 8]
```diff
@@ -0,0 +1,846 @@
...
+lemma contrVecProdT_add_right {nV nM : ℕ} {cV : Fin (nV + 1) → C} {cM : Fin (1 + nM + 1) → C}
+    (hc : S.τ (cV (Fin.last nV)) = cM 0) (t1 : Tensor S cV) (t2 t2' : Tensor S cM) :
+    contrVecProdT hc t1 (t2 + t2') = contrVecProdT hc t1 t2 + contrVecProdT hc t1 t2' := by
+  simp [contrVecProdT]
+
+/-- Re-express a contraction at a stuck size `n1` in terms of the same contraction at a
+  clean size `n` (with `h : n1 = n`), by transporting the tensor and the two contracted indices
+  along the canonical `Fin.cast`.  This exposes the intermediate contraction count in `n + 1 + 1`
+  form so that `contrT_permT` and `contrT_comm` can fire. -/
+lemma contrT_cast {n n1 : ℕ} {c : Fin (n1 + 1 + 1) → C}
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/Bond.lean]: This I think already exists, though if it doesn't this file is not the right place.

File: Physlib/Relativity/Tensors/Contraction/Bond.lean [hunk 9]
```diff
@@ -0,0 +1,846 @@
...
+provability; axiom-clean. -/
+set_option backward.isDefEq.respectTransparency false in
+/-- The cross-factor contraction ("tensor inner product"): contract the right bond (last index)
+  of `t1` against the left bond (first index) of `t2`. The surviving indices are those of `t1`
+  except its right bond (`cA ∘ Fin.castSucc`) followed by those of `t2` except its left bond
+  (`cB ∘ Fin.succ`); the result is again bond-distinguished `Fin (1 + (nA + nB) + 1)`, so
+  cross-contractions chain without recasts. -/
+noncomputable def contrProdT {nA nB : ℕ} {cA : Fin (1 + nA + 1) → C} {cB : Fin (1 + nB + 1) → C}
+    (hc : S.τ (cA (Fin.last (1 + nA))) = cB 0) (t1 : Tensor S cA) (t2 : Tensor S cB) :
+    Tensor S (Fin.append (cA ∘ Fin.castSucc) (cB ∘ Fin.succ) ∘
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/Bond.lean]: Lift to a bilinear map? Then you don't need all of the proofs below.

File: Physlib/Relativity/Tensors/Contraction/Bond.lean [hunk 10]
```diff
@@ -0,0 +1,846 @@
...
+
+The machinery multiplies tensors of two bond shapes: a *two-bond* tensor `Fin (1 + n + 1)` (a left
+and right bond around `n` spectators) and a *vector* `Fin (nV + 1)` (a single right bond). The
+right factor must be two-bond, to offer a left bond for the weld; the left factor may be either.
+Two operations cover the cases, each joining the left factor's right bond to the right factor's
+left bond:
+
+- `contrProdT` — two-bond · two-bond → two-bond: `Fin (1 + nA + 1)` · `Fin (1 + nB + 1)` →
+    `Fin (1 + (nA + nB) + 1)`, the operator product `(A·B)ⁱₖ = Aⁱⱼ Bʲₖ`;
+- `contrVecProdT` — vector · two-bond → vector: `Fin (nV + 1)` · `Fin (1 + nM + 1)` →
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/Bond.lean]: I'm slightly confused about the difference between these. But maybe I can ask, will we only ever use these for nA, nB, nV and nM = 0? or are there application when this is not the case? 

If the former, I think the Api would be simplified a lot by making this restriction (and it would let us proof a lot more about these things I think).

File: Physlib/Relativity/Tensors/Contraction/Bond.lean [hunk 11]
```diff
@@ -0,0 +1,846 @@
...
+The *bond specification* makes cross-factor contraction *closed under composition*. A two-bond
+tensor `Fin (1 + n + 1)` reserves two slots for gluing — position `0` the *left bond*, the last the
+*right bond*, `1..n` the spectators carried through — and a contraction always joins one factor's
+right bond to the next's left bond (the *virtual leg* between them). Each definition folds the
+reshaping `Fin.cast` into its own output colour, so contracting two two-bond tensors yields *again*
+a two-bond tensor: one contraction's output is exactly the next's input. `A·B·C·⋯` then type-checks
+as plain iterated contraction, no cast at any step — this closure is why the bond layout exists,
+turning matrix-chain manipulation from a tower of transports into definitional rewriting.
+
+The machinery multiplies tensors of two bond shapes: a *two-bond* tensor `Fin (1 + n + 1)` (a left
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/Bond.lean]: Also, I think we can make these doc-strings less verbose as well (I don't think AI does a particularly good job at writing these).

Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/Bond.lean]: Yes that is true.

**Comment by pariandrea** [comment]
I am currently writing a crosscontraction file which is just contrT and prodT on a pair of tensors where we prove associativity and other basic properties. This is very useful when we want to raise and lower indices with metric tensors. 

Example: `crossContrT 2 0 R u` reads back as `R_{μνρσ} uᵖ`

Bond becomes a specific case where we have a chain of tensors contracted at extremal indices such as a chain of lorentz transformations. Ideally, we would have a general rank tensor algebra that does not need Fin.cast at every step. This turns out to be very challenging. I have not replied to the comments yet because I am still exploring a few possibilities.

**Comment by jstoobysmith** [comment]
Sounds good! I think you already know this, but just in case not: this (which is now merged with toDualAtIndex) #1348 allows you to rise and lower indices more easily, with the index notation.

**Comment by pariandrea** [comment]
## Rescoping

I've replaced the PR description with a rescoped version (see the updated body).

**Original scope.** The goal was a general-rank tensor algebra to solve the `Fin`-cast problem that
appears when chaining tensor contractions: `contrT` of a `prodT` lands at a cast-polluted colour, so a
second contraction needs hand-inserted recasts and the two bracketings of a chain sit at different
types. Doing this in full generality turned out to be very hard.

**New scope.** I've cut the PR down to exactly what my SUSY (N=1 Kähler) work needs, and no more.

## Summary

The PR adds `crossContrT i j`, a slot-addressed contraction of one tensor's slot `i` against another's
slot `j`, which normalises its output colour to a clean `Fin (nA+nB) → C` so a following contraction
composes against plain slot variables with no hand-inserted colour recasts. Built on it:

- `contrAtSlot i M`: contract a named index against a compatible rank-2 tensor `M`, with the
  replacement colour parameterised by `d`. Taking `M` to be a metric implements raising or lowering;
  the Kähler `lower` / `raise` use exactly this operation.
- `crossContrT_chain_assoc`: the reassociation used to prove `raise ∘ lower = id`. In raw
  `contrT`/`prodT` form the two bracketings have different cast-laden output types, so their equality
  needs a bespoke transport. The canonical output of `crossContrT` gives this reassociation a stable,
  reusable statement with its remaining reindexings explicit.
- `crossContrT_crossContrT_of_unit_at`: the round-trip theorem the metric inverse law `g · g⁻¹ = δ`
  feeds.

The general-rank named-index dual (`toDualAtIndex` reimplemented on this machinery, plus its
double-dual round trip) is a self-contained extra. The SUSY work does not use it, and it sits in the
final commit, which can be dropped to leave a machinery-only PR that still builds.

## What this does not solve

`crossContrT` normalises the survivor count and colour layout of each individual contraction: inputs
with `nA+1` and `nB+1` slots return the canonical `nA+nB` survivors. It cannot make the counts produced
by two bracketings of a chain, `(nA+nB)+nC` and `nA+(nB+nC)`, definitionally equal. Reassociation
therefore still needs explicit count reindexings. In `crossContrT_chain_assoc` these include the outer
`permT (Fin.cast (nA+nB+nC = nA+(nB+nC)))` on the result and an inner count reindexing that puts the
intermediate `B·C` contraction into the shape expected by the outer contraction.

`crossContrT` itself also inserts `Fin.cast`s internally to reshape the product
`(nA+1)+(nB+1)` into the `(nA+nB)+1+1` shape `contrT` needs, then transports the result to its canonical
colour function. These transports are packaged by the definition; they are not deleted. The current
round-trip consumer simplifies the resulting reindexings and discharges the final equality with
`permT_congr`.

Naming the operation does not remove the count cast, but it is still worthwhile.

- It localises the recurring fibre-level colour transports inside the definition and reusable lemmas.
  Those transports are `Eq.rec` / `LinearEquiv.cast`s on components that block defeq and stack; they
  still exist internally, because `permT` itself is implemented using component casts. Callers work
  against one canonical survivor layout instead of rebuilding a raw-to-canonical transport tower at
  every use site.
- It gives downstream statements a stable public normal form. `raise ∘ lower = id` and the
  double-dual can be expressed with their residual transports explicit rather than with a bespoke
  tower derived from the syntax of raw `contrT`/`prodT`. Chain reassociation carries count-level
  `Fin.cast` reindexings; the double-dual instead retains an identity `permT` carrying the colour
  equality generated by `Function.update` and `τ ∘ τ = id`.
- It turns the algebra into reusable lemmas. Left-linearity, equivariance, the `permT` commutators, and
  `crossContrT_chain_assoc` are proved once against clean slot variables. The associativity proof still
  compares contraction coefficients, survivor maps, colour preservation, and the count reindexings;
  the gain is that this work is centralised instead of re-derived per consumer against concrete casts.
- It bounds and localises the residual reassociation cost. The exposed transports are a controlled
  collection of `permT (Fin.cast …)` reindexings whose colour-preservation proofs are determined by the
  canonical survivor order. The current round-trip proof simplifies them through the `permT` algebra
  and closes the final reindexing equality with `permT_congr`. Separate propositional colour equalities
  can still produce identity-`permT` transports.

So `crossContrT` does not eliminate the `Fin`-cast problem or reduce associativity to arithmetic. It
chooses a canonical public type for each cross contraction, proves the raw-to-canonical transports in
one place, and supports reusable algebra at that normal form. Count parenthesisation and its associated
colour-preservation proofs remain explicit when contractions are reassociated.

**Comment by nateabr** [comment]
will get to this @pariandrea if Joseph doesn't beat me to it, please bare with me 


Thanks for your work :))

File: Physlib/Relativity/Tensors/Contraction/Basic.lean [hunk 12]
```diff
@@ -154,6 +154,38 @@ lemma contrT_permT {n n1 : ℕ} {c : Fin (n + 1 + 1) → C}
   · intro t1 t2 ht1 ht2
     simp_all [P]
 
+/-- Re-express a contraction at a stuck size `n1` as the same contraction at a clean size `n`, given
+  `h : n1 = n`, by transporting the tensor and the two contracted indices along the canonical
+  `Fin.cast`. Exposes the contraction count in `n + 1 + 1` form so `contrT_permT` and `contrT_comm`
+  can fire. -/
+lemma contrT_cast {n n1 : ℕ} {c : Fin (n1 + 1 + 1) → C}
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/Basic.lean]: How is this different from `contrT_congr`?

File: Physlib/Relativity/Tensors/Contraction/MetricDual.lean
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/MetricDual.lean:1]: What is the motivation for moving these results? I don't think ./Contraction/... is the best place for them

File: Physlib/Relativity/Tensors/Contraction/UnitTensorContraction.lean [hunk 13]
```diff
@@ -0,0 +1,422 @@
...
+spectator decomposition along the last slot; `crossContrT_unitTensor` moves it to any slot.
+
+-/
+
+/-- Two `LinearEquiv.cast`s of a pure tensor read at equal slots `a = b` agree; a `Pure.congr_mid`
+  wrapper with the target colour and the two cast proofs left implicit. -/
+private lemma pure_cast_congr {n : ℕ} {c : Fin n → C} (p : Pure S c) {a b : Fin n} (hab : a = b)
+    {W : C} {h1 : c a = W} {h2 : c b = W} :
+    LinearEquiv.cast (R := k) h1 (p a) = LinearEquiv.cast (R := k) h2 (p b) :=
+  Pure.congr_mid W p a b hab h1 h2
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/UnitTensorContraction.lean]: Should not do this, as one can just use `Pure.congr_mid`

**Comment by jstoobysmith** [comment]
Could you give an example here of where you want to use `crossContrT`, but where index notation would not work?

**Comment by jstoobysmith** [comment]
> Could you give an example here of where you want to use `crossContrT`, but where index notation would not work?

Maybe I'm asking here: what is your exact use case for these functions. Above you write: `R_{μνρσ} uᵖ`, but our index notation already covers this. 

What is the situation which index notation does not cover concretely? Is it something which goes beyond index notion even on pen and paper, or is it something which is a limitation of the index notation in Physlib.

**Comment by pariandrea** [comment]
I have rescoped the branch and rewritten the description.
R_{μνρσ} uᵖ is done by the index notation.
The problem I wanted to solve is to prove some lemmas such as associativity for index contraction.
This is in general hard so the problem I try to solve here is simply:

(t·g)·g⁻¹ = t·(g·g⁻¹)

for a general rank tensor t.

The round-trip lemma:

lemma crossContrT_crossContrT_of_unit_at {nA : ℕ} {c : Fin (nA + 1) → C} {d : C}
    (i : Fin (nA + 1))
    (M₁ : Tensor S ![S.τ (c i), d]) (M₂ : Tensor S ![S.τ d, c i]) ...
is stated for arbitrary rank nA + 1 at an arbitrary slot i. Index notation is syntactic, one index symbol is written per slot, so a tensor of variable rank has no notation expression, and there is no way to name "slot i". This lemma feeds toDualAtIndex_toDualAtIndex in MetricDual.lean, which generalises the upstream/master round trips (toDualMap_fromDualMap, fromDualMap_toDualMap, rank 1 slot 0) to any rank and any named slot.

For the concrete rank-one Kähler application index notation can describe the diagram, e.g. schematically {V | I ⊗ g | I J̄}ᵀ, but that elaborates to raw contrT (prodT …) at a non-canonical colour, and the round trip still has to be proved against that term. The cost of doing this per fixed rank is visible on master: toDualMap_fromDualMap is a ~35-line transport computation needing respectTransparency false, for rank 1 and slot 0 only. Each fixed-rank instance reproduces that grind with its own transports. 

My logic is to give a cross contraction a canonical end form: survivor indices of A followed by survivor indices of B, relabelled without gaps. However, I am unsure crossContrT is the right abstraction. This canonical ordering always puts the replacement index in the last slot, whatever slot was contracted: contracting slot i = 1 of [c₀, c₁, c₂, c₃] against a rank-2 M = [τ(c₁), d] gives [c₀, c₂, c₃, d], not [c₀, d, c₂, c₃]. That ordering is what makes crossContrT_chain_assoc statable at general rank: appending survivors on the right is itself associative, so both bracketings produce the same survivor list in the same order.

But raising and lowering needs the index in place. It wants the result colour Function.update c i d: slot i relabelled, nothing moved, as in T^μ_νρ ↦ T_μνρ. This is the type of contrAtSlot, and the one the Kähler raise/lower and toDualAtIndex need.

So I proved associativity in the appended-survivor convention and the raise/lower round trip in the in-place convention, and the friction between the two is where the remaining complexity lives: contrAtSlot is crossContrT plus the cycle rotating d back to slot i, and that rotation resurfaces in every lemma connecting the two layers. Honestly, I have spent a long time trying to come up with something better and I might need some guidance. Otherwise, we can also postpone this and work at fixed rank until a better design comes up.

**Comment by jstoobysmith** [comment]
Opps: commented this before I saw your reply

Sorry for the noise, but let me answer my own question here. I think the real motivation for defining this general construction is that it is often the case that we have some special tensors in a theory, for example, the unit tensors, the metric tensors, or the Kahler metric tensors. In general, we want to contract those tensors and specific indices of those tensors with specific indices of other, often arbitrary, tensors. The mechanism that's in this pull request is what gives us the framework to do that.

You could use the definitions we have already to do this. However, because these sorts of manipulations are so common, it is useful to have a general way to construct these index contractions. A specific example is the toDualIndexAt, which now uses this function as a base. This is really one of the main motivations behind defining it: it allows you to define toDualIndexAt, but also other things which are similar. 

If this is correct, I think we need to include this in the doc string and consider how we can frame things around this, because this is the clear motivation behind this. I don't think the motivation about needing to contract to indices of two different tensors is as strong.

**Comment by jstoobysmith** [comment]
```quote 
My logic is to give a cross contraction a canonical end form: survivor indices of A followed by survivor indices of B, relabelled without gaps. However, I am unsure crossContrT is the right abstraction. This canonical ordering always puts the replacement index in the last slot, whatever slot was contracted: contracting slot i = 1 of [c₀, c₁, c₂, c₃] against a rank-2 M = [τ(c₁), d] gives [c₀, c₂, c₃, d], not [c₀, d, c₂, c₃]. That ordering is what makes crossContrT_chain_assoc statable at general rank: appending survivors on the right is itself associative, so both bracketings produce the same survivor list in the same order.
```
If we instead focus on abstracting `toDualAtIndex` for an arbitrary two-index tensor, then I think this might be a better abstraction, as it seems to cover most of the cases that we want. Why do we need `crossContrT_chain_assoc`?

**Comment by pariandrea** [comment]
Yes, contracting the special tensors of a theory (unit, metric, Kähler metric) against named slots of arbitrary tensors is the right description of the use case, and I'll lead the docstrings with it.


One precision: the theorems are one level more general than the metric examples. The round trip is proved once, for any matched pair of rank-2 tensors that collapses to the unit tensor (crossContrT_crossContrT_of_unit_at), at any colour pair, any rank, any slot. 

Example of crossContrT_crossContrT_of_unit_at is T^{μνρ} (M₁)_{νσ} (M₂)^{στ} = δ_ν^τ T^{μνρ} = T^{μτρ}

The species metric (toDualAtIndex_toDualAtIndex) and the Kähler metric (raise/lower, where the two slots have different colours, the reason d is free in contrAtSlot) are instances. Any future metric-like pairing gets its round trip from the same lemma.

That generality comes from crossContrT_chain_assoc: associativity of a contraction chain, (A·B)·C = A·(B·C). The two bracketings land at differently grouped types, (nA + nB) + nC vs nA + (nB + nC), but since crossContrT appends survivors on the right, both sides produce the same survivor list in the same order, so the lemma only needs the regrouping cast, at any rank, any slot. The round trip runs on this: raising then lowering is (t·g)·g⁻¹, and g·g⁻¹ = δ can't fire until you regroup to t·(g·g⁻¹).

On "you could use the definitions we have already", at fixed rank, yes: that's what toDualMap_fromDualMap on master does, ~35 lines of transports doing that regrouping by hand, rank 1 slot 0 only (and toDualAtIndex has no lemmas at all). At general rank the raw bracketings sit at non-canonical colours and the reassociation isn't statable as one lemma; the canonical output colour is what turns it into a cast.

The issue with general rank crossContrT_chain_assoc is that it forces the following two conventions:

Convention 1 — survivors appended (what crossContrT does). Output = A's surviving slots, then B's surviving slots, gaps closed. The new index always ends up last:

contract slot 1 of [c₀, c₁, c₂, c₃] against [τc₁, d]  →  [c₀, c₂, c₃, d]

Convention 2 — index in place (what contrAtSlot exposes). Output = same layout as the input, only the contracted slot's colour changes:

contract slot 1 of [c₀, c₁, c₂, c₃] against [τc₁, d]  →  [c₀, d, c₂, c₃]

So this framework looks messy because for the associativity we need the first convention and for raise/lower we need the second.
The alternative (I have not tried) is to keep only convention 2 and prove associativity at fixed ranks for every rank tensor we need.

**Comment by jstoobysmith** [comment]
Is there an easy way to see why associatively forces the first convention?

**Comment by pariandrea** [comment]
I do not think that it is impossible to prove without the convention.
The chain_assoc proof is easier when we know where the contraction ends up.

Convention 1
append   — b always lands last:
  contract slot 0:  [a₁, a₂, b]      b at position 2
  contract slot 2:  [a₀, a₁, b]      b at position 2

Convention 2
in place — b lands where the contracted slot was:
  contract slot 0:  [b, a₁, a₂]      b at position 0
  contract slot 2:  [a₀, a₁, b]      b at position 2

If we use the physically better convention 2 the colour position will depend on the indices we contract.
I could try to reprove chain_assoc without convention 1.
Alternatively, we could work at the fixed ranks and prove something like crossContrT_chain_assoc_rank_one which should be easy in either the conventions.
This would be better than index notation becomes it would be more general and it could be used to prove round trips for general metric types such as Kahler metric and it would strip away the index bookkeeping complexity of the currect toDualAtIndex.

**Comment by jstoobysmith** [comment]
I think convention 2 only works anyway in the case where one of the tensors is of rank 2, maybe this assumption is enough to simplify the calculation enough?

**Comment by pariandrea** [comment]
Fixing the metric to rank 2 doesn't simplify `chain_assoc`. The generality that makes that proof hard lives in the general-rank tensor `t` of `(t·g)·g⁻¹ = t·(g·g⁻¹)`, not in the metric; `g` and `g⁻¹` are already rank 2. `chain_assoc` is a specific chained configuration `A—B—C`: `A`'s slot `iA` is free and possibly interior, and contracts with `B`'s first slot; `B`'s other contracted slot lands at the last position of `A·B`, which then contracts with `C`'s locked first slot. `B` and `C` are pinned to their chain endpoints, so only `A` carries the arbitrary rank and the free slot. Constraining `B` and `C` to rank 2 leaves the hard part untouched: the complexity is tracking `A`'s surviving slots around an interior contraction at symbolic rank.

Following your point that the abstraction is contracting special tensors at named slots, I've reframed the API so the names carry the design. No behaviour change beyond the renamed identifiers.

### The two conventions

Every slot contraction has to decide where the surviving index lands, and the names now say which.

- `crossContrT` → `crossToEnd`. Deposits the result at the **end** (survivors of A, then survivors of B, gaps closed). This is what makes `crossToEnd_chain_assoc` easier to prove because appending survivors on the right is associative.
- `contrAtSlot` → `crossToSlot`. Keeps the result **at the slot** (`Function.update c i d`, nothing else moves), as in `T^μ_νρ ↦ T_μνρ` — the convention raising/lowering and `toDualAtIndex` need, and the front door.

### The connecting lemma

    crossToSlot_eq_crossToEnd :
      crossToSlot i M t = permT (Fin.cycleIcc i (Fin.last nA)).symm _ (crossToEnd i 0 t M)

The single place the two conventions meet: the cycle that walks the result from the end back to slot `i`.

### Structure

- `crossToEnd` — the underlying cross contraction, with `crossToEnd_chain_assoc` and `crossToEnd_round_trip_of_unit` (the matched-pair collapse, at any rank and any slot).
- `crossToSlot` — the front-door operation, with `crossToSlot_eq_crossToEnd` connecting the two and `crossToSlot_raise_lower_roundtrip` built on the `crossToEnd` engine. That round trip is parameterized by a target survivor colour `e = c i`: the inverse metric and the raised index land at `e`, so a consumer whose inverse metric sits at a literal colour supplies it with no `permT` transport.
- `toDualAtIndex` — the species-metric instance of `crossToSlot`; its double-dual round trip is the same-colour (`e := c i`) consumer of the one round-trip lemma.
- Docstrings lead with "result-to-end vs result-to-slot", `crossToSlot` as the API and `crossToEnd` as the substrate.

### What consumes this downstream

The N=1 Kähler layer is the live consumer, exercising exactly the generality the species metric does not:

- `KahlerMetric.raise`/`lower` are `crossToSlot` against `g_{IJ̄}` and its inverse, at a named slot of an arbitrary-rank tensor. That metric carries two *different* colours (`chiralDown`, `antiDown`), so the replacement colour differs from `τ(c i)` , the free-`d` case the same-colour metric never hits.
- `KahlerMetric.raise_lower : raise (lower t) = t` is a direct instance of `crossToSlot_raise_lower_roundtrip`. Because `g_{IJ̄}` and `g^{J̄I}` carry literal colours, raising lands the survivor at the literal `chiralUp` (`e = chiralUp`), the inverse metric enters at its native colour, and the inverse law `g · g⁻¹ = δ` is the metric's `rightInverse` field. Proved once at general rank.
- The F-term potential consumes `raise` directly: `g^{J̄I} D_I W D̄_J̄ W̄`.

File: Physlib/Relativity/Tensors/Contraction/Basic.lean (hunk 12 above)
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/Basic.lean]: My comment here still holds, that I don't see the difference between this and `contrT_congr`.

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean [hunk 14]
```diff
@@ -0,0 +1,772 @@
...
+public import Physlib.Relativity.Tensors.Contraction.Products
+public import Physlib.Relativity.Tensors.Product
+public import Physlib.Relativity.Tensors.Reindexing
+/-!
+
+# Cross contraction at named slots — the general contraction primitive
+
+## i. Overview
+
+`contrT` contracts two slots of a single tensor, but a physical contraction pairs a slot of one
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/CrossContraction.lean]: `Physical contraction` doesn't make sense here - there are lots of contractions that only contract the indcies of one tensor.

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/CrossContraction.lean:1]: Would rename file `CrossToEnd`

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean [hunk 15]
```diff
@@ -0,0 +1,772 @@
...
+    Tensor S (Fin.append (cA ∘ i.succAbove) (cB ∘ j.succAbove)) :=
+  permT id
+    (by
+      refine ⟨Function.bijective_id, fun m => ?_⟩
+      simp only [id_eq, Function.comp_apply]
+      refine Fin.addCases (fun a => ?_) (fun a => ?_) m
+      · rw [crossToEnd_reinsert_castAdd i j a]
+        simp only [Fin.append_left, Function.comp_apply]
+      · rw [crossToEnd_reinsert_natAdd i j a]
+        simp only [Fin.append_right, Function.comp_apply])
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/CrossContraction.lean]: These sorts of longs proofs should really be moved to lemmas in `Reindexing`.

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean [hunk 16]
```diff
@@ -0,0 +1,772 @@
...
+pure-tensor level (so the seam permutation never crosses a contraction under `whnf`); the congruence
+towers `pure_double_cast_congr` and `permP_dropPair_dropPair_permP_congr` close the step.
+
+-/
+
+/-- Two double-`LinearEquiv.cast`s of the same pure tensor `p` evaluated at equal indices `a = b`
+  agree (the cast proofs are proof-irrelevant once the indices are substituted). Closes the
+  `permP`/`dropPair` pure-tensor tower of `crossToEnd_chain_assoc` after reducing both sides to
+  `p (slot index)`. -/
+private lemma pure_double_cast_congr {n : ℕ} {c : Fin n → C}
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/CrossContraction.lean]: Should not need this lemma or ones like this

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean [hunk 17]
```diff
@@ -0,0 +1,772 @@
...
+    Pure.permP σ1R h1R (Pure.dropPair a2R b2R hab2R (Pure.dropPair aR bR habR
+      (Pure.permP σ0R h0R p))) := by
+  funext m
+  simp only [Pure.permP, Pure.dropPair]
+  exact pure_double_cast_congr p (hslot m) _ _ _ _
+
+/-- `contrPCoeff` is insensitive to the proof arguments once the two contracted slots agree.
+  Keeps coefficient comparisons in `crossToEnd_chain_assoc` from invoking a broad `congr` search
+  through the contraction coefficient's proof fields. -/
+private lemma contrPCoeff_congr {n : ℕ} {c : Fin n → C} (p : Pure S c)
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/CrossContraction.lean]: Should move to file where `contrPCoeff` and not made private

File: Physlib/Relativity/Tensors/Contraction/UnitTensorContraction.lean (hunk 13 above)
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/Contraction/UnitTensorContraction.lean]: Don't need lemmas like this

File: Physlib/Relativity/Tensors/Contraction/UnitTensorContraction.lean [hunk 18]
```diff
@@ -0,0 +1,429 @@
...
+    simp only [Nat.succ_eq_add_one, Nat.reduceAdd, CompTriple.comp_eq,
+      Fin.cast_eq_self, Fin.predPredAbove_succSuccAbove]
+    refine Fin.addCases (fun j => ?_) (fun j => ?_) i <;> simp [Fin.append_left, Fin.append_right]
+  · rfl
+
+/-- The block map that lists the `i.succAbove` survivors of slot `i` and then `i` itself is a
+  reindexing of `cA`: it matches `cA` with the surviving colours of contracting slot `i` (colour
+  `c`) against the unit tensor's `0`-slot. Supplies the output relabelling of
+  `crossToEnd_unitTensor`. -/
+lemma IsReindexing.moveLast {nA : ℕ} {cA : Fin (nA + 1) → C} {c : C} (i : Fin (nA + 1))
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/UnitTensorContraction.lean]: Should be in `Reindexing` file

File: Physlib/Relativity/Tensors/Reindexing.lean [hunk 19]
```diff
@@ -32,6 +32,122 @@ We are interested in the interaction of reindexing with the following operations
...
+/-- The identity relabelling induces the identity on the survivors of any slot. -/
+@[simp]
+lemma succAboveInduced_id {n : ℕ} (i : Fin (n + 1))
+    (hbij : Function.Bijective (id : Fin (n + 1) → Fin (n + 1))) :
+    succAboveInduced i id hbij = id := by
+  funext a
+  apply Fin.succAbove_right_injective (p := i)
+  simpa using succAbove_succAboveInduced i id hbij a
+
+end Fin
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Reindexing.lean]: If we can get a way without defining any of these lemmas or `succAboveInduced` I think that would be good. Generally I have found this to be possible with results using `succAbove` etc, and what one ends up with is usually a lot nicer at the end.

File: Physlib/Relativity/Tensors/Reindexing.lean [hunk 20]
```diff
@@ -51,6 +167,13 @@ def IsReindexing {n m : ℕ} (c : Fin n → C) (c1 : Fin m → C)
     (σ : Fin m → Fin n) : Prop :=
   Function.Bijective σ ∧ ∀ i, c (σ i) = c1 i
 
+/-- `id` is a reindexing between two colour lists that agree pointwise. Marked `reducible` so it
+  unfolds under `instances` transparency, keeping the resulting proof matchable by the
+  `permT`/`crossToEnd` rewrite lemmas. -/
+@[reducible, nolint defLemma] def idReindex {n : ℕ} {c c1 : Fin n → C} (h : ∀ j, c j = c1 j) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Reindexing.lean]: Should really be a lemma, but also is it actually needed?

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean [hunk 21]
```diff
@@ -0,0 +1,772 @@
...
+    rfl
+
+/-- Contract slot `i` of `t` against slot `0` of the rank-2 tensor `M`, whose `0`-slot must carry
+  the dual colour `τ (c i)`, and rotate `M`'s surviving slot back into position `i`. The result is
+  `t` with slot `i` relabelled to `M`'s second colour `d`.
+
+  This is raising and lowering a named index: `Dual.toDualAtIndex` is the case
+  `M = metricTensor (τ (c i))`, where `d = τ (c i)`. Leaving `d` free lets `M` be a metric whose two
+  slots carry different colours, so the contracted index need not map to its variance dual. -/
+noncomputable def crossToSlot {nA : ℕ} {c : Fin (nA + 1) → C} (i : Fin (nA + 1)) {d : C}
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/CrossContraction.lean]: Would give it it's own file.

**Comment by jstoobysmith** [comment]
awaiting-author

File: Physlib/Relativity/Tensors/Contraction/Basic.lean (hunk 12 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/Basic.lean]: contrT_cast` deleted; the file is back to its master content, untouched by this PR

File: Physlib/Relativity/Tensors/Contraction/MetricDual.lean
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/MetricDual.lean:1]: the results are back in `Dual.lean`

File: Physlib/Relativity/Tensors/Contraction/UnitTensorContraction.lean (hunk 13 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/UnitTensorContraction.lean]: `pure_cast_congr` deleted; `Pure.congr_mid` used directly

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean (hunk 14 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/CrossContraction.lean]: reworded to "a slot of one tensor against a slot of another" in CrossToEnd.lean file

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/CrossContraction.lean:1]: done, and split further into `CrossToEnd.lean` + `CrossToSlot.lean`

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean (hunk 15 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/CrossContraction.lean]: 11 index lemmas extracted. only `crossToEnd_assoc_rankTwo` is still 66 lines .

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean (hunk 16 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/CrossContraction.lean]: deleted

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean (hunk 17 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/CrossContraction.lean]: public, in `Contraction/Pure.lean` beside `contrPCoeff`

File: Physlib/Relativity/Tensors/Contraction/UnitTensorContraction.lean (hunk 18 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/UnitTensorContraction.lean]: moved to `Reindexing.lean`

File: Physlib/Relativity/Tensors/Reindexing.lean (hunk 19 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Reindexing.lean]: removed

File: Physlib/Relativity/Tensors/Reindexing.lean (hunk 20 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Reindexing.lean]: deleted, call sites use the existing `IsReindexing.on_id.mpr`

File: Physlib/Relativity/Tensors/Contraction/CrossContraction.lean (hunk 21 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/CrossContraction.lean]: done: `Contraction/CrossToSlot.lean`

**Comment by pariandrea** [comment]
Rebased onto current master and force-pushed, so the diff reads as new, sorry for that but the commits were becoming complicated. All threads from the last round are addressed and I've replied in each. 
An important note:
`toDualMapAtIndex_toDualMapAtIndex` is now proved at every rank and
every slot, which makes the rank-one `toDualMap` / `fromDualMap` / `toDual` the `n = 1`, `i = 0`
case of it. I deleted those three and renamed the map `toDualAtIndex` to `toDualMapAtIndex`, so
that `toDualAtIndex` can be the `≃ₗ`, the same naming relation `toDualMap` and `toDual` had on
master. `Elab.lean` follows the rename in `jiggle` and in two `#guard_msgs`. Nothing else in the
repo referenced the deleted names and the full build is green, but if you'd rather keep the rank-one API, or keep the old name on the map and give the equivalence a new one, say so and I'll change it.


Thank you both for the time you have put into this. The PR is much larger than the guidelines ask for, and I should have rescoped it before review rather than during. Future work will go up in smaller pieces. What it leaves behind is the raise/lower round trip proved once for any matched pair of rank two tensors that collapses to the unit tensor, at any rank, any slot, and any colours, so the species metric and the Kähler metric are both instances of it. The double dual round trip, which on master held only at rank one and slot zero, now holds at every rank and every slot.

File: Physlib/Relativity/Tensors/Contraction/CrossToEnd.lean [hunk 22]
```diff
@@ -0,0 +1,345 @@
...
+`contrT` contracts two slots of a single tensor. Contracting a slot of one tensor against a slot of
+another (`T^{μν} u_ν`, `g_{μν} v^ν`) is `prodT` then `contrT`, which leaves every call site to
+locate the two post-product slots and discharge the distinctness and `τ`-duality goals.
+
+`crossToEnd i j hc` packages that move at named slots `i` and `j`, with `hc : S.τ (cA i) = cB j`
+recording their `τ`-duality and output color `Fin.append (cA ∘ i.succAbove) (cB ∘ j.succAbove)`,
+left survivors then right. Any slot is reachable: `crossToEnd 2 0 _ R u` reads as `R_{μνρσ} u^ρ`.
+Survivors at the end make the output an append, so both bracketings of a chain produce the same
+survivor list. The complementary convention, keeping the replacement index in place
+(`T^{μ}{}_{νρ} ↦ T_{μνρ}`), is `crossToSlot`, built on this substrate in
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/CrossToEnd.lean]: Not sure about this example for `crossToSlot`?

File: Physlib/Relativity/Tensors/Contraction/CrossToEnd.lean [hunk 23]
```diff
@@ -0,0 +1,345 @@
...
+
+# Cross contraction at named slots
+
+## i. Overview
+
+`contrT` contracts two slots of a single tensor. Contracting a slot of one tensor against a slot of
+another (`T^{μν} u_ν`, `g_{μν} v^ν`) is `prodT` then `contrT`, which leaves every call site to
+locate the two post-product slots and discharge the distinctness and `τ`-duality goals.
+
+`crossToEnd i j hc` packages that move at named slots `i` and `j`, with `hc : S.τ (cA i) = cB j`
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/CrossToEnd.lean]: `that contract at named...`?

File: Physlib/Relativity/Tensors/Contraction/SuccSuccAbove.lean [hunk 24]
```diff
@@ -231,6 +231,37 @@ lemma succSuccAbove_natAdd_apply_castAdd {n n1 : ℕ}
   simp only [Fin.ext_iff, succSuccAbove_val, natAdd, castAdd]
   grind (splits := 20)
 
+/-- Reinserting a left-block survivor `a` after removing the `i`-th slot of the left block and the
+  `j`-th slot of the right block of `Fin ((nA + 1) + (nB + 1))`, the removal read at the contracted
+  length `(nA + nB) + 1 + 1`. Unlike `succSuccAbove_natAdd_apply_castAdd` the two holes straddle the
+  two blocks, so the statement carries the reshaping `Fin.cast`s. -/
+lemma reinsert_castAdd {nA nB : ℕ} (i : Fin (nA + 1)) (j : Fin (nB + 1))
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Contraction/SuccSuccAbove.lean]: These probably aren't named the best, and could do with `succSuccAbove` in their names`

File: Physlib/Relativity/Tensors/Reindexing.lean [hunk 25]
```diff
@@ -472,6 +579,30 @@ lemma append_succ_last {n : ℕ} (c : Fin (n + 1) → C) :
   · simp only [Fin.append_left, Function.comp_apply]; rfl
   · fin_cases i; simp only [Fin.append_right, Matrix.cons_val_fin_one]; rfl
 
+/-- Splitting a list of colours `c : Fin (n + 1) → C` at an arbitrary slot `i`, rather than at the
+  last one as in `append_succ_last`: the block map that lists the `i.succAbove` survivors and then
+  `i` itself matches `c` with the survivors of `i` followed by the surviving entry `c1 1` of a
+  rank-two list `c1` whose second entry is slot `i`'s colour. -/
+lemma moveLast {n : ℕ} {c : Fin (n + 1) → C} {c1 : Fin 2 → C} (i : Fin (n + 1))
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Reindexing.lean]: `move_last` or similar

**Review by jstoobysmith — COMMENTED** [review]
Some minor comments

File: Physlib/Relativity/Tensors/Reindexing.lean [hunk 26]
```diff
@@ -32,6 +32,96 @@ We are interested in the interaction of reindexing with the following operations
...
+  Fin.ext (by simp [hv])
+
+/-- A `Fin.cast` of a right-block injection is the literal slot `⟨v, _⟩` at the offset value `v`.
+  See `Fin.cast_castAdd_eq_mk` for why the `Fin`-level statement matters. -/
+lemma cast_natAdd_eq_mk {n m N : ℕ} (h : n + m = N) {i : Fin m} {v : ℕ}
+    (hv : n + i.val = v) :
+    Fin.cast h (Fin.natAdd n i) =
+      ⟨v, by subst h hv; exact Nat.add_lt_add_left i.isLt n⟩ :=
+  Fin.ext (by simp [hv])
+
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/Reindexing.lean]: Can we try and get rid of these lemmas, i.e. just use their proofs where needed in other lemmas that have physical context.

File: Physlib/Relativity/Tensors/Reindexing.lean (hunk 25 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Reindexing.lean]: Renamed to `move_last`.

File: Physlib/Relativity/Tensors/Contraction/CrossToEnd.lean (hunk 22 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/CrossToEnd.lean]: Replaced. The `T^{μ}{}_{νρ} ↦ T_{μνρ}` reading is correct but does not show the distinction it was there to make: index notation carries the names along, so both conventions read as a valid lowering. The overview now states the two as the colour lists they produce, at an interior slot:

> Contracting slot `1` of `![c₀, c₁, c₂, c₃]` against a rank-two `![S.τ c₁, d]` gives `![c₀, c₂, c₃, d]` here and `![c₀, d, c₂, c₃]` there.

`CrossToSlot.lean` keeps the index-notation reading, which is the natural phrasing in the file that implements that convention.

**Comment by pariandrea** [comment]
Addressed the latest round; replied in each thread.

- The `Fin` block in `Reindexing.lean` is down from nine lemmas to two. Seven had a single consumer and are now local hypotheses in the proof that used them. The two survivors have multiple consumers across three files.
- `Fin.reinsert_castAdd` / `reinsert_natAdd` →
  `succSuccAbove_castAdd_natAdd_apply_castAdd` / `..._apply_natAdd`.
- `IsReindexing.moveLast` → `move_last`.
- Both `CrossToEnd` docstring points rewritten.

File: Physlib/Relativity/Tensors/Reindexing.lean (hunk 26 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Reindexing.lean]: Done for seven of the nine. Each was consumed by a single lemma, so its proof
now sits inside that lemma as a local hypothesis and the top-level name is gone:

- `append_swap_val`, `append_castAdd_cast`, `append_natAdd_cast`,
  `cast_castAdd_eq_mk`, `cast_natAdd_eq_mk` — all five were used only by
  `crossToEnd_assoc_rankTwo`.
- `exists_succAbove_comm` — only by `crossToEnd_unitTensor`.
- `cycleIcc_last_symm_apply_succAbove` — only by
  `crossToSlot_round_trip_of_unit`.

Two are left. Both are used in three separate
files, so inlining duplicates a proof rather than relocating it:

- `append_castAdd_natAdd_eq_id`, six use sites in three lemmas across
  `CrossToEnd.lean`, `CrossToSlot.lean` and `UnitTensorContraction.lean`. 
- `append_succAbove_const_eq_cycleIcc`, five use sites in four lemmas across
  `Reindexing.lean`, `CrossToSlot.lean` and `UnitTensorContraction.lean`.

File: Physlib/Relativity/Tensors/Contraction/SuccSuccAbove.lean (hunk 24 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/SuccSuccAbove.lean]: Renamed to `succSuccAbove_castAdd_natAdd_apply_castAdd` and
`succSuccAbove_castAdd_natAdd_apply_natAdd`.

File: Physlib/Relativity/Tensors/Contraction/CrossToEnd.lean (hunk 23 above)
Comment (pariandrea) [reply Physlib/Relativity/Tensors/Contraction/CrossToEnd.lean]: The line now reads:

  `crossToEnd i j hc` performs that contraction at named slots `i` and `j`, with
  `hc : S.τ (cA i) = cB j` recording their `τ`-duality. The output color is
  `Fin.append (cA ∘ i.succAbove) (cB ∘ j.succAbove)`: every slot of `cA` except
  `i`, in order, then every slot of `cB` except `j`.

**Review by jstoobysmith — APPROVED** [review]
Ok, many thanks for iterating - approving this and will merge shortly!

**Comment by jstoobysmith** [comment]
I think @nateabr also needs to approve this PR for me to be able to merge it, given there are requested changes above.

**Comment by nateabr** [comment]
Sorry about that :((

**Comment by jstoobysmith** [comment]
@nateabr Nothing to apologise about :) - tbh, I didn't even know this was a thing until now.
